US09403835B2
Step 2: (S)-3-(2-carboxy-5-fluoro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
A solution of sodium chlorite (320 mg; 3.54 mmol; 5.5 eq.) and sodium dihydrogenphosphate (278 mg; 2.32 mmol; 3.6 eq.) in water (2 mL) was added dropwise to a mixture of 2-methyl-2-butene (0.64 mL) and (S)-3-(5-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (208 mg; 0.64 mmol; 1 eq.) in 1,4-dioxane (2 mL). The reaction mixture was stirred at room temperature for 16 hours and the 1,4-dioxane concentrated in vacuo. The aqueous solution was diluted with water and the pH made acidic with 0.1M HCl. The mixture was extracted with DCM (2×) and the combined organic phase was dried over magnesium sulfate and concentrated in vacuo to afford the title compound (202 mg, 93%) as a white solid. HPLC (max plot) 94.3%; Rt 3.89 min. UPLC/MS: (MS−) 338.4 ([M−H]−).

reactant | sodium chlorite | 3.54 mmol, 320 mg, 5.5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 2.32 mmol, 278 mg, 3.6 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.64 mL | CC(C)=CC | C5H10
reactant | (S)-3-(5-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.64 mmol, 208 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)C=O | C17H22FNO4
solvent | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(2-carboxy-5-fluoro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 202 mg, 93% | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)C(=O)O | C17H22FNO5
